US06774136B2
4-Chloro-2-[(2-chlorophenyl)-piperidin-1-yl-methyl]-naphthalen-1-ol
The preparation was carried out in accordance with general synthesis instructions 4 from 1-(2-chloro-benzylidene)-piperidinium chloride and 4-chloro-1-naphthol.

reactant | 1-(2-chloro-benzylidene)-piperidinium chloride | [Cl-].ClC1=C(C=[N+]2CCCCC2)C=CC=C1
reactant | 4-chloro-1-naphthol | ClC1=CC=C(C2=CC=CC=C12)O | C10H7ClO
product | 4-Chloro-2-[(2-chlorophenyl)-piperidin-1-yl-methyl]-naphthalen-1-ol | ClC1=CC(=C(C2=CC=CC=C12)O)C(N1CCCCC1)C1=C(C=CC=C1)Cl | C22H21Cl2NO
